US05003080
A solution of 1.19 g of (±)-cis-1,1-dimethylethyl 4-(cyanomethyl)-1,5-dioxaspiro[5.5]undecane-2acetate in 30 mL of methanol saturated with gaseous ammonia is treated with 0.3 g of Raney nickel #30 and hydrogen gas in a shaker at 50 pounds per square inch gage (psig) and 40 ° C. After 22 hours, thin layer chromatography indicates no starting nitrile present. The suspension is cooled, filtered through filter aid, and concentrated to an oil. This crude oil is purified by silica gel flash chromatography (30:20:1; ethyl acetate:methanol:ammonium hydroxide) to give 1.18 g of (±)-cis-1,1-dimethylethyl 4-(2-aminoethyl)- 1,5-dioxaspiro[5.5]undecane-2-acetate as a clear oil which solidifies upon standing.

reactant | (±)-cis-1,1-dimethylethyl 4-(cyanomethyl)-1,5-dioxaspiro[5.5]undecane-2acetate | 1.19 g | C(#N)C[C@@H]1C[C@@H](OC2(O1)CCCCC2)CC(=O)OC(C)(C)C | C17H27NO4
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | water | 0.3 g | O | H2O
product | (±)-cis-1,1-dimethylethyl 4-(2-aminoethyl)- 1,5-dioxaspiro[5.5]undecane-2-acetate | 1.18 g | NCC[C@@H]1C[C@@H](OC2(O1)CCCCC2)CC(=O)OC(C)(C)C | C17H31NO4
